US06380238B1
6-Ethylthio-5-fluoroindole was prepared from 6-ethylthio-5-fluoroindole-2,3-dione according to the method described in the synthesis of 7-chloro-5-fluoroindole as a pale green oil (0.49 g, 23%): IR νmax (film)/cm−1 3426, 2969, 2927, 1565, 1471, 1454, 1307, 1140 and 1101; NMR δH (400 MHz, CDCl3) 1.26 (3H, t, J 7.5), 2.91 (2H, q, J 7.5 Hz), 6.48-6.51 (1H, m), 7.23 (1H, t, J 2.5 Hz), 7.31 (1H, d, J 10.0 Hz), 7.46 (1H, d, J 6.0 Hz), 8.01-8.25 (1H, brm).

reactant | 6-ethylthio-5-fluoroindole-2,3-dione | C(C)SC1=C(C=C2C(C(NC2=C1)=O)=O)F | C10H8FNO2S
reactant | 7-chloro-5-fluoroindole | 0.49 g | ClC=1C=C(C=C2C=CNC12)F | C8H5ClFN
product | 6-Ethylthio-5-fluoroindole | C(C)SC1=C(C=C2C=CNC2=C1)F | C10H10FNS
